US05480892
A solution of 10 mL of methylene chloride and 0.4 mL (4.4 mmol) of oxalyl chloride was cooled under nitrogen to -60°. A solution of 0.68 mL of dimethylsulfoxide in 2 mL of methylene chloride was added dropwise to the solution. After stirring for 2 minutes 0.95 g (4 mmol) of 1-(2-phenylethyl)-4-methyl-4-hydroxymethyl-piperidine was added in 2-3 mL of methylene chloride. Stirring was continued for an additional 15 minutes. Triethylamine (2.8 mL, 20 mmol) was added to the reaction mixture and stirring was continued for 5 min, then the mixture was allowed to warm to room temperature. Water (20 mL) was added and the aqueous mixture was extracted with methylene chloride. The-organic extracts were washed with brine, dried and evaporated to give 1-(2-phenylethyl)-4-methyl-4-formyl-piperidine as a clear oil in quantitative yield. NMR (CDCl3) δ9.46 (s, 1H); 7.16-7.27 (m, 5H); 2.84-3.00 (br, 1H); 2.75-2.82 (m, 2H); 2.65-2.75 (m, 2H); 2.55-2.63 (m, 2H); 2.27 (t, 2H); 1.98-2.09 (m, 2H); 1.51-1.63 (m, 2H); 1.05 (s, 3H).

reactant | oxalyl chloride | 4.4 mmol, 0.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.68 mL | CS(=O)C | C2H6OS
reactant | 1-(2-phenylethyl)-4-methyl-4-hydroxymethyl-piperidine | 4 mmol, 0.95 g | C1(=CC=CC=C1)CCN1CCC(CC1)(CO)C | C15H23NO
reactant | Triethylamine | 20 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2-3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 20 mL | O | H2O
product | 1-(2-phenylethyl)-4-methyl-4-formyl-piperidine | quantitative yield | C1(=CC=CC=C1)CCN1CCC(CC1)(C=O)C | C15H21NO
